US08669398B2
Preparation of 2-(4-hydroxy-2,2,6,6-tetramethyl-piperidin-1-yl)-1,3-di-p-tolyl-isourea (compound 12)
4-Hydroxy-2,2,6,6-tetramethylpiperidine-N-oxyl (1.9 g, 11 mmol) is dissolved in THF (40 ml) and hydrogenated in the presence of 0.035 g Pt (5% on carbon) catalyst using 4 bar hydrogen pressure. The hydrogen uptake stops after approximately one hour. The reaction mixture is then filtered and mixed with the solution of bis-p-tolyl-carbodiimide (2.45 g, 11 mmol) in THF (30 ml). The solution is stirred under argon at room temperature for 16 hours and concentrated. The residue is chromatographed on silica gel with hexane-ethyl acetate (1:1) and the pure fractions are crystallized from ethyl acetate to afford 1.6 g of the title compound as a colorless solid, mp. 124-126° C.

reactant | 4-Hydroxy-2,2,6,6-tetramethylpiperidine-N-oxyl | 11 mmol, 1.9 g | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | hydrogen | [H][H] | H2
reactant | bis-p-tolyl-carbodiimide | 11 mmol, 2.45 g | C1(=CC=C(C=C1)N=C=NC1=CC=C(C=C1)C)C | C15H14N2
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(4-hydroxy-2,2,6,6-tetramethyl-piperidin-1-yl)-1,3-di-p-tolyl-isourea | 1.6 g | OC1CC(N(C(C1)(C)C)OC(NC1=CC=C(C=C1)C)=NC1=CC=C(C=C1)C)(C)C | C24H33N3O2
